US04746653
A mixture of 377 mg of methyl 4-(α-phosphonoacetamido)-picolinate and 4.2 ml of 1N sodium hydroxide is heated at 80° for 10 minutes. The reaction mixture is cooled, filtered through Dowex 50-X8 resin and evaporated to dryness. Trituration with ethanol affords 4-(α-phosphonoacetamido)-picolinic acid, m.p. 249°-252° (dec).

reactant | methyl 4-(α-phosphonoacetamido)-picolinate | 377 mg | P(=O)(O)(O)CC(=O)NC1=CC(=NC=C1)C(=O)OC | C9H11N2O6P
reactant | sodium hydroxide | 1N, 4.2 ml | [OH-].[Na+]
product | 4-(α-phosphonoacetamido)-picolinic acid | P(=O)(O)(O)CC(=O)NC1=CC(=NC=C1)C(=O)O | C8H9N2O6P
